US06133271
With the procedure of Example 1, the reaction of 3,4-ethylenedioxyphenethylamine with 4-chloro-2-(isoxazol-5-yl)-6-chloro-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-(3,4-ethylenedioxyphenethylamino)-6-chloro-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-ethylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2OC1 | C10H13NO2
reactant | 4-chloro-2-(isoxazol-5-yl)-6-chloro-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC(=C2)Cl | C9H3Cl2N3OS
product | 2-(isoxazol-5-yl)-4-(3,4-ethylenedioxyphenethylamino)-6-chloro-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC(=C2)Cl)NCCC2=CC1=C(C=C2)OCCO1 | C19H15ClN4O3S
